US07642264B2
5-{3-[4-Methyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-phenyl}-thiophene-2-sulfonic acid amide
To a cooled and stirred solution of N-tert-butyl-5-{3-[4-methyl-6-(4-trifluoromethylphenyl)-pyrimidin-2-yl]-phenyl}-thiophene-2-sulfonic acid amide (0.16 g) in dichloromethane (3 mL) was added TFA (3 mL) and the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was evaporated to dryness and saturated NaHCO3 solution (4 mL), diethyl ether and heptane were added. The mixture was stirred at room temperature for 1 h, the precipitate was collected by filtration, further purified by flash chromatography (heptane/ethyl acetate) and crystallization (dichloromethane/heptane) to yield the title compound as an off-white solid (0.098 g, 21%). MS (ISP) 476.0 [(M+H)+]; mp 225° C.

reactant | N-tert-butyl-5-{3-[4-methyl-6-(4-trifluoromethylphenyl)-pyrimidin-2-yl]-phenyl}-thiophene-2-sulfonic acid amide | 0.16 g | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=CC(=CC=C1)C1=NC(=CC(=N1)C)C1=CC=C(C=C1)C(F)(F)F | C26H24F3N3O2S2
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 5-{3-[4-Methyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-phenyl}-thiophene-2-sulfonic acid amide | 0.098 g, 21% | CC1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1=CC=C(S1)S(=O)(=O)N | C22H16F3N3O2S2
